US05441731
3-Bromopropanol (200 g), methacrylic anhydride (222 g), pyridine (134 ml) were combined with dimethylaminopyridine (4 g) with cooling to 10° in an ice bath. The reaction was stirred at room temperature for 48 hours. Water (1000 ml) was added and the aqueous solution was then acidified with dilute hydrochloric acid, and extracted with hexane (3×500 ml). The combined organic extracts were washed with 2NHCl (500 ml), water (500 ml), saturated sodium hydrogen carbonate solution (2×750 ml), water (500 ml). After drying over anhydrous magnesium sulphate, the solution was concentrated in vacuo. The resulting oil was purified by distillation to give a colourless oil, bp 66°-72°, 0.5 Torr (110 g). This oil was further purified by chromatography on silica gel with hexane:dichloromethane (50:50) as eluent, to give 3-bromopropylmethacrylate (94.3 g, 32%).

reactant | 3-Bromopropanol | 200 g | BrCCCO | C3H7BrO
reactant | methacrylic anhydride | 222 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | pyridine | 134 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
catalyst | dimethylaminopyridine | 4 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | Water | 1000 ml | O | H2O
product | 3-bromopropylmethacrylate | 94.3 g, 32% | BrCCCOC(C(=C)C)=O | C7H11BrO2
